US09315517B2
Step 2: 2-(2-(1-(6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-1-yl)-N,N-dimethylethanamine
To [2-(4-(4-fluoro-3-trifluoromethyl-phenyl)-2-{1-[7-(4-methoxy-benzyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-piperidin-4-yl}-imidazol-1-yl)-ethyl]-dimethyl-amine trifluoroacetate (50.0 mg; 0.07 mmol; 1.0 eq.) in a seal tube was added trifluoroacetic acid (1.0 ml). The reaction mixture was stirred at 80° C. for 14 hours. LC-MS showed clean reaction with 99% purity by HPLC. After Removal of TFA, the residue was dissolved in small amount of acetonitrile, added water and then lyophilized to afford the title compound as off-white solid (35 mg, 70% yield); LC-MS (M+H=504, obsd.=504);

reactant | [2-(4-(4-fluoro-3-trifluoromethyl-phenyl)-2-{1-[7-(4-methoxy-benzyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-piperidin-4-yl}-imidazol-1-yl)-ethyl]-dimethyl-amine trifluoroacetate | 0.07 mmol, 50.0 mg, 1.0 eq. | FC(C(=O)O)(F)F.FC1=C(C=C(C=C1)C=1N=C(N(C1)CCN(C)C)C1CCN(CC1)C=1C2=C(N=CN1)N(CC2)CC2=CC=C(C=C2)OC)C(F)(F)F
reactant | trifluoroacetic acid | 1.0 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(2-(1-(6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-1-yl)-N,N-dimethylethanamine | 35 mg, 70% yield | N1=CN=C(C2=C1NCC2)N2CCC(CC2)C=2N(C=C(N2)C2=CC(=C(C=C2)F)C(F)(F)F)CCN(C)C | C25H29F4N7
